US07846956B2
4.33 g of (1-methyl-2-mercaptoimidazol-5-yl)methanol was added to 90 ml of tetrahydrofuran. Thereto 3.70 g of potassium t-butoxide and 5.15 g of ethyl iodide were then added under ice-cooling. The mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 4.82 g of (2-ethylthio-1-methylimidazol-5-yl)methanol.

reactant | (1-methyl-2-mercaptoimidazol-5-yl)methanol | 4.33 g | CN1C(=NC=C1CO)S | C5H8N2OS
reactant | potassium t-butoxide | 3.70 g | CC(C)([O-])C.[K+]
reactant | ethyl iodide | 5.15 g | C(C)I | C2H5I
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | (2-ethylthio-1-methylimidazol-5-yl)methanol | 4.82 g | C(C)SC=1N(C(=CN1)CO)C | C7H12N2OS
